Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Motrin / Retrovir / Lipitor / Tricor
 
Attending: ___.
 
Chief Complaint:
loss of consciousness
 
Major Surgical or Invasive Procedure:
stereotactic brain biopsy
right frontal craniotomy with resection of mass
bronchoscopy with tumor debulking

 
History of Present Illness:
Mr ___ is a ___ man with a past medical history 
significant for HIV, Hep C, metastatic squamous cell lung ca 
with mets to the brain who was transferred from an outside 
hospital with a seizure. The patient only recalls that his blood 
sugars were elevated on the night before admission, that he got 
up to go to the bathroom around 1 am, and remembers waking up 
around 8 am in the bathtub covered with stool. He denies 
confusion, but reports some left sided numbness that has 
persisted but improved slightly. Head CT at the ___ 
___ showed a large mass in the right frontoparietal area 
2.5 cm in diameter with vasogenic edema. 
 
Past Medical History:
Past onc history (per Dr. ___ outpatient note 
___:  Mr. ___ developed hemoptysis in ___. A 
chest X-ray and chest CT showed a tumor in his R lung. He 
underwent a bronchoscopy at an OSH, which was complicated by 
hemorrhage. He was transferred to ___ 
___ on ___ to have the broncoscopic biopsy with 
bronchial stent placement. Pathology showed poorly 
differentiated squamous cell carcinoma with ulceration, necrosis 
and lymphovascular invasion. Subsequent PET/CT showed the lung 
tumor together with brain metastases. He was taken to ___ 
___, where he had a gadolinium-enhanced head MRI, showing 
brain metastasis.  He was started on dexamethasone for this.   
  
The patient was referred by ___, MD, to Dr. ___ 
(neuro-onc at ___ for management of his brain mets. He 
presented to Dr. ___ office on ___. He had a nonproductive 
cough but denied fever, chills, nightsweat,headache, nausea, 
vomiting, seizure, imbalance, urinary  incontinence, or fall. He 
was sent to the ED for further management and admitted to the 
Interventional Pulmonary service. A bronch on ___ showed that 
the stent had migrated proximally. The stent was replaced, and 
the patient is being transferred to the Oncology service for 
further management of his oncologic issues.  

COPD, 
HIV, 
GERD,  
Latent Tuberculosis, 
Depression
S/p Right total knee replacement, 
Bipolar Disorder
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
PE VS T 97.1 hr 61 bp 127/76 96% 3L  
gen awake, alert, pleasant  
heent op clear, mmm, perrl, no papilledema or retinal 
hemorrhaging on fundoscopic exam  
neck supple, no jvp, no lad  
cv nls1s2  
pulm inspiratory and expiratory wheezing  
gi abd soft, obese, nontender, no bruits  
ext 1+ ___ edema  
skin warm, red  
ms no cva tenderness  
neuro ms oriented to person place, grossly to time (day 
___, year ___, cn ii-xii intact, motor ___ upper&lower 
extremity r=l, nl light touch, dtrs symmetric, plantar response 
flexion  

 
Pertinent Results:
Admission labs:

___ 06:15AM BLOOD Glucose-169* UreaN-13 Creat-0.5 Na-135 
K-4.1 Cl-97 HCO3-30 AnGap-12
___ 06:15AM BLOOD WBC-9.8 RBC-4.27* Hgb-12.1* Hct-36.5* 
MCV-85 MCH-28.4 MCHC-33.3 RDW-14.2 Plt ___
___ 08:00AM BLOOD ALT-42* AST-17 AlkPhos-137* TotBili-0.3

Discharge Labs:
___ WBC-7.9 RBC-3.07* Hgb-8.4* Hct-24.8* MCV-81 RDW-16.8* 
Plt ___
___ BLOOD Glucose-140* UreaN-19 Creat-0.6 Na-135 K-3.9 
Cl-95* HCO3-28 
___ BLOOD ALT-149* AST-83* AlkPhos-237* TotBili-0.4
___ BLOOD Phos-5.0* Mg-1.9

Imaging:

___. PA/LATERAL CXR: A large central right upper lobe 
mass is again demonstrated with associated right hilar and 
paratracheal lymphadenopathy. Linear opacities projecting distal 
to the mass may represent a component of minor post-obstructive 
atelectasis or localized lymphangitic spread of tumor. Heart 
size is normal. No pleural effusions or acute skeletal 
abnormalities are identified. 
IMPRESSION: Large central right upper lobe neoplastic mass with 
associated 
right paratracheal and right hilar lymphadenopathy. These 
findings have 
previously been evaluated by CT of the chest, and correlation 
with that study recommended for more complete assessment. 
  
___. Non-contrast head CT. 
Images are degraded by motion artefact. There is a 2.5 x 2.6 cm 
right parasagittal frontal lobe mass with central areas of low 
attenuation and extensive adjacent vasogenic edema unchanged 
since recent MR study. There is no significant mass effect or 
shift of normally midline structures. There are no other masses 
or lesions. There is no intra- or extra-axial hemorrhage. The 
ventricles and sulci are normal in size and configuration. The 
gray and white matter differentiation is well preserved. Osseous 
structures are unremarkable. 
IMPRESSION: Unchanged right frontal parasagittal mass with 
surrounding 
vasogenic edema, without significant mass effect or shift of 
midline 
structures. No hemorrhage. 

___. Triplanar post-Gadolinium spin echo T1-weighted 
images and axial post-Gadolinium MP-RAGE of the head were 
obtained. Again seen is an enhancing mass involving the right 
frontal lobe with central area of apparent cavitation. The mass 
measures approximately 2.7 x 2.7 x 3.1 cm in its traverse, AP, 
and craniocaudal ___. This appears to have minimally 
increased in size since the prior study from ___. Again seen 
is a large area of surrounding edema with sulcal effacement. 
There is also depression of the right lateral ventricle and 
minimal right to left shift of the normally midline structures. 
No new enhancing lesions are identified. Overlying right frontal 
burr hole is again seen. IMPRESSION: Large right frontal mass 
with surrounding edema again visualized. The mass may have 
minimally increased in size compared to ___. 

___ ___-acquired contiguous axial images of the head 
were obtained without IV contrast. 
The patient is status post right frontal craniotomy. There is 
some 
adjacent soft tissue swelling. There is no new intracranial 
hemorrhage. There is again marked vasogenic edema. There appears 
to be minimally increased subfalcine herniation with 14 mm 
midline shift compared to 13 on prior, although this may be due 
to technique and slice selection. There is 
persistent edema and mass effect on the lateral ventricle as 
well as sulcal effacement, which overall is otherwise similar. 
There is trace residual pneumocephalus. The subcutaneous 
emphysema is similar. The mastoid processes are not well 
pneumatized but are unchanged. The mucosal thickening in the 
left mastoid is similar. IMPRESSION: Persistent right frontal 
vasogenic edema with subfalcine herniation and minimally 
increased midline shift, which may be due to technique. No new 
intracranial hemorrhage. 

___  TRANSTHORACIC ECHOCARDIOGRAPHY:
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%) Tissue Doppler imaging 
suggests a normal left ventricular filling pressure 
(PCWP<12mmHg). Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. The estimated 
pulmonary artery systolic pressure is normal. There is no mitral 
valve prolapse. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion. 
IMPRESSION: Mild aortic leaflet thickening without discrete 
vegetation or valvular regurgitation. Normal biventricular 
cavity sizes with preserved global and regional biventricular 
systolic function. 

 
Brief Hospital Course:
Mr ___ is a ___ man with a past medical history 
significant for HIV, Hep C, metastatic squamous cell lung ca 
with mets to the brain who was transferred from an outside 
hospital with a seizure. The patient only recalls that his blood 
sugars were elevated on the night before admission, that he got 
up to go to the bathroom around 1 am, and remembers waking up 
around 8 am in the bathtub covered with stool. He denies 
confusion, but reports some left sided numbness that has 
persisted but improved slightly. Head CT at the ___ 
___ showed a large mass in the right frontoparietal area 
2.5 cm in diameter with vasogenic edema. 

1. Loss Of Consciousness: 
The patient was admitted with loss of consciousness and left 
sided numbness.  It is unclear whether the event was syncopal or 
seizure related, though the latter is thought to be more likely 
given his brain metastases.  Because of this, he was continued 
on dexamethasone.  He was started on anti-epileptic medications 
(initially dilantin, which was discontinued and keppra started 
in its place per neurologic consultation).  

2. Brain Metastases: 
The patient has a known brain metastasis.  He was evaluated by 
the neurosurgical service on this admission, and underwent a 
steriotactic brain biopsy of a right frontal parasagittal mass 
on ___, which showed a  poorly differentiated metastatic 
carcinoma on pathologic evaluation. He then underwent craniotomy 
and resection of the same mass on ___.  His post-operative 
course was complicated by development of stroke symptoms: Left 
facial droop and hemiplegia on ___.  CT revealed worsening 
right frontal vasogenic edema with new foci of parenchymal and 
possible subarachnoid hemorrhage and 13-mm leftward subfalcine 
herniation.  He was started on mannitol and increased doses of 
dexamethasone.  He underwent repeat head CT on ___ 
demonstrating no new bleeds and mild improvement in edema.  On 
discharge, the patient had evidence of increasing strength on 
his left side (ability to lift left leg against gravity and mild 
resistance; and ability to move L hand mildly against gravity; 
unable to lift forearm or shoulder).  He will complete a taper 
of the dexamethasone following discharge, and should be 
maintained on a dosage of 2mg twice daily following the taper.  
He is also to see the radiation oncologist Dr. ___.  
Of note, the patient complains of intermittent headache, which 
is relieved with dilaudid.   

3. Non-small cell lung cancer metastatic to brain, adrenal 
glands: 
The patient has stage IV non-small cell lung cancer with 
metastases to the brain and adrenals.  He has undergone stenting 
and of the right mainstem bronchus, which is invaded/enveloped 
by his R lung mass.  He will pursue additional oncologic 
treatment near his home in ___.  He is scheduled to see 
Dr. ___ (radiation oncologist) on ___ 
regarding radiation therapy.  

4. Hyponatremia: 
He developed hyponatremia following his brain resection.  The 
hyponatremia was thought to be due to cerebral salt wasting as 
well as SIADH from his lung cancer.  He was treated with a 
hypertonic saline, fluid restriction, and lasix.  On discharge, 
his sodium had normalized to 135 on continued fluid restriction, 
salt tabs, and lasix.  He was encouraged to continue these 
measures at home and to have his sodium checked by his PCP.  

5. Fever: 
The patient experienced fevers post-operatively.  His infectious 
workup was notable for coagulase negative staph in two out of 
two blood cultures on ___.  Follow-up cultures were negative. 
 TTE was w/o evidence of endocarditis.  His positive blood 
cultures were attributed to contamination from his skin.  He 
defervesced without intervention. 

6. Steroid-induced diabetes: 
The patient was kept on glyburide and SSI.  He is being 
discharged on glyburide alone.

7. HIV/AIDS: 
The patient is on HAART (CD4 150, HIV-1 < 50 copies/ml 
___. He was continued on HAART and bactrim prophylaxis 
for PCP.

8. COPD: 
asymptomatic during hospital stay.  Continued on inhalers.

9. CODE STATUS: DNR/DNI 
-- this was discussed during conversations between the patient 
and the palliative medicine service.  See below for exerpt 
regarding the patients wishes and psychosocial concerns from a 
note by palliative medicine physician, ___:

"a) His priority right now is to spend as much time as possible 
with his family, especially with his partner of more than a 
decade ___.  He is hoping he can return home after this 
hospitalization.  We discussed that he is to have another 
re-evaluation with ___ today or tomorrow; he is focused on doing 
___ at home and prefers not to go to rehab.  He states that his 
partner ___ is experienced in caring for him and is 
in fact employed to care for him (I did not catch the name of 
agency -- ___.. something).  

b) He is interested in pursuing tx options that his physicians 
feel can help reduce tumor burden and palliate his disease, such 
as XRT.  He is open to talking about transitioning to hospice 
care in the future and in fact says ___ has been in contact with 
___ (his current agency) because they also do hospice 
care.  He would like her to get as much support as possible in 
the home; we discussed some of the various services they offer 
including RN visits, personal care assistants, SW.

c) He mentioned to me that he has told his prior doctors here 
that ___ is not interested in being intubated again or being on 
mechanical ventilation.  He initially said that "CPR would be 
OK, but no breathing tubes."  However, as we discussed further 
what his priorities are, it became clear that he wants any 
remaining time to be spent alert, comfortable, and interactive 
with his loved ones, not intubated or unconscious in the ICU.  
Given this goal, he was able to articulate that if he were 
gravely ill, he would want to be "let go naturally."  He wishes 
to be DNR/DNI and I have conveyed this to his medical team.  

We did not specifically discuss intubation for planned 
procedures, but having a DNR/DNI code status does not prevent 
him from undergoing future intubation for planned procedures 
that could possibly benefit him clinically (such as 
bronchoscopy).

d) He seems to be doing a good amount of reflecting on his life; 
he shared about overcoming his very abusive childhood (mother 
actively abused him and at one point he was hospitalized because 
she gave him a soda can spiked with house cleaner; mother was 
abused by father and "she took it out on me because we had the
same name"); he states that he was a "really bad person in his 
young days", did a lot of awful things.  He initially says that 
maybe his cancer is punishment for his prior life, but then 
recants and says he doesn't really believe he is being punished
-- "life is just being unfair"; 

He shared that he's happy he has done well with his dx of 
HIV/AIDS, which he acquired from IVDU; shared with pride that he 
has done a lot of HIV teaching in high school, is glad he has 
done something constructive with the hard events in his life. We 
came back to this point several times as he was reflecting on 
life."

 
Medications on Admission:
combivent, clonidine bactrim, dexamethasone,atripla, glyburide, 
ambien, zetia, lexapro, oxcarbazepine, oxycontin, percocet, 
spireva 
 
Discharge Medications:
1. Glyburide 5 mg Tablet Sig: One (1) Tablet PO once a day.  
2. Combivent ___ mcg/Actuation Aerosol Inhalation every six 
(6) hours.  
3. Famotidine 20 mg Tablet PO twice a day: For stomach acid.  
4. Emtricitabine-Tenofovir 200-300 mg Tablet Sig: One (1) Tablet 
PO DAILY 
5. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO DAILY 
6. Efavirenz 600 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Levetiracetam 500 mg Tablet Sig: Two (2) Tablet PO BID To 
prevent seizures.
Disp:*120 Tablet(s)* Refills:*2*
8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day): Laxative.
Disp:*60 Tablet(s)* Refills:*2*
9. Oxycodone 20 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO Q12H (every 12 hours).
Disp:*60 Tablet Sustained Release 12 hr(s)* Refills:*2*
10. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed.
Disp:*200 Tablet(s)* Refills:*0*
11. Sodium Chloride 1 gram Tablet Sig: Two (2) Tablet PO QID (4 
times a day): isp:*240 Tablet(s)* Refills:*2*
12. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed: For nausea.
Disp:*60 Tablet, Rapid Dissolve(s)* Refills:*0*
13. Clonidine 0.1 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
14. Furosemide 40 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours)
Disp:*120 Tablet(s)* Refills:*2*
15. Dexamethasone 4 mg Tablet Sig: One (1) Tablet PO Tapering 
Dose: Every 4hours x 2day; Every 6hr x 2 day; Every 8hr x 2day; 
Every 12hr x 2day.  Then go to 2mg twice a day. Disp:*30 
Tablet(s)* Refills:*2*
16. Dexamethasone 2 mg Tablet Sig: One (1) Tablet PO every 
twelve (12) hours: To start after taper of 4mg done. Disp:*120 
Tablet(s)* Refills:*2*
17. Colace 100 mg Capsule Sig: One (1) Capsule PO every twelve 
(12) hours as needed for constipation: Stool softener. Disp:*60 
Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Stage IV lung cancer with metastases lung cancer to brain
Status post craniotomy and tumor resection
Syndrome of inappropriate anti-diuretic hormone

Secondary:
HIV
Hepatitis C
COPD
Hypercholesterolemia
h/o Latent Tuberculosis
Depression
s/p total right knee replacement
type II diabetes mellitus

 
Discharge Condition:
Ambulating with assist, improving left sided weakness, off of 
oxygen, alert & oriented x3

 
Discharge Instructions:
DISCHARGE INSTRUCTIONS FOR CRANIOTOMY

•Have a family member check your incision daily for signs of 
infection
•Take your pain medicine as prescribed
•Exercise should be limited to walking; no lifting, straining, 
excessive bending
•You may wash your hair only after sutures and/or staples have 
been removed 
•You may shower before this time with assistance and use of a 
shower cap
•Increase your intake fiber as pain medicine (narcotics) can 
cause constipation.  You can also use stool softener or 
laxative.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, aspirin, Advil, 
Ibuprofen etc. 
•You have been prescribed an anti-seizure medicine, take it as 
prescribed and follow up with laboratory blood drawing as 
ordered

CALL YOUR SURGEON/DOCTOR IMMEDIATELY IF YOU EXPERIENCE ANY OF 
THE FOLLOWING:

•New onset of tremors or seizures
•Any confusion or change in mental status 
•Any numbness, tingling, weakness in your extremities
•Pain or headache that is continually increasing or not 
relieved by pain medication
•Any signs of infection at the wound site: redness, swelling, 
tenderness, drainage
•Fever greater than or equal to 101° F
 
Followup Instructions:
___